US07375134B2
2-Benzyloxycarbonylamino-5,5,5-trifluoropent-2-enoic acid methylester (15.37 g, 48.5 mmol) was dissolved in absolute ethanol (100 mL) in a Parr hydrogenation vessel. The solution was sparged with a stream of nitrogen and then (+)Duphos (350 mg) was added. The reaction mixture was placed on a Parr hydrogenation apparatus and the headspace was evacuated and then pressurized with 50 psi of hydrogen. This process was repeated seven times and the vessel was then pressurized with 50 psi of hydrogen and agitated on the Parr apparatus overnight. The reaction mixture was then concentrated by rotary evaporation, dissolved in 1:1 ethyl acetate:hexanes, and filtered through a bed of silica to remove catalyst. The filtrate was concentrated by rotary evaporation yielding crude (S)-2-benzyloxycarbonylamino-5,5,5-trifluoropentanoic acid methyl ester that was carried forward without further purification.

reactant | 2-Benzyloxycarbonylamino-5,5,5-trifluoropent-2-enoic acid methylester | 48.5 mmol, 15.37 g | COC(C(=CCC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C14H14F3NO4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-2-benzyloxycarbonylamino-5,5,5-trifluoropentanoic acid methyl ester | COC([C@H](CCC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C14H16F3NO4
